US08426420B2
iii) 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid butyl ester
To a solution of 5.62 g Z-Gly-OH (Benzyloxycarbonylamino-acetic acid) in 100 ml DMF were added 13.7 ml N-ethylmorpholine, 8.8 g TOTU and 5.0 g piperazine-1-carboxylic acid butyl ester. After stirring for 12 h, aqueous NaHCO3 was added and the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4%) and 0.1 M HCl. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 6.34 g

reactant | Z-Gly-OH | 5.62 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | N-ethylmorpholine | 13.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 8.8 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | piperazine-1-carboxylic acid butyl ester | 5.0 g | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O | C19H27N3O5
